US07776910B2
Tris(dibenzylideneacetone)dipalladium(0) (32 mg, 0.03509 mmol), 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene (40 mg, 0.07017 mmol), 2-(triethylsilyl)ethanethiol (57 μL, 1.403 mmol) and DIPEA (0.257 mL, 2.807 mmol) were added to a solution of 3-(4-bromo-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 g, 1.403 mmol) in 1,4-dioxane (10 mL). The reaction mixture was heated at reflux for 18 hours. The reaction mixture was cooled and a solution of 10% KHSO4/Na2SO4 was added. The resulting mixture was extracted with EtOAc, and the combined organic extracts were washed with water and brine; dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 95/5) to give 0.380 g (66% yield) of 3-[2-methoxy-4-(2-trimethylsilanyl-ethylsulfanyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | 2-(triethylsilyl)ethanethiol | 1.403 mmol, 57 μL | C(C)[Si](CCS)(CC)CC | C8H20SSi
reactant | DIPEA | 2.807 mmol, 0.257 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(4-bromo-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.403 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)Br)OC | C16H22BrNO3
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.03509 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-Bis(diphenylphosphino)-9,9-dimethylxanthene | 0.07017 mmol, 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 3-[2-methoxy-4-(2-trimethylsilanyl-ethylsulfanyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.380 g, 66% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)SCC[Si](C)(C)C)OC | C21H35NO3SSi
